US08541457B2
Synthesis of N-Benzyl-2-(2-methoxyisonicotinamido)-4-methylthiazole-5-carboxamide
To a solution of 2-methoxyisonicotinic acid (0.25 g, 1.01 mmol) in anhydrous tetrahydrofuran (10 mL) was added 4-methyl morpholine (0.15 g, 1.45 mmol), followed by the dropwise addition of isobutylchloroformate (0.19 g, 1.36 mmol) at 0° C. The reaction mixture was stirred at ambient temperature for 6 hours. Then a solution of 2-amino-N-benzyl-4-methylthiazole-5-carboxamide in tetrahydrofuran (10 mL) was added to it. The reaction mixture was stirred at ambient temperature for another 6 hours. The solvent was removed in vacuo. The residue was dissolved in ethyl acetate (50 mL) and washed with diluted hydrochloric acid solution (10 mL), saturated sodium bicarbonate solution (10 mL) and brine (10 mL). The organic layer was dried over anhydrous sodium sulfate, filtered and the filtrate was concentrated in vacuo. The residue was recrystallized from ethyl acetate and hexane to yield the title compound as a colorless solid in 83% yield (0.32 g); m.p. 188-190° C.; 1H NMR (CDCl3, 300 MHz) δ 8.32 (d, J=5.3 Hz, 1H), 7.37-7.25 (m, 7H), 7.17 (s, 1H), 5.99 (t, J=5.0 Hz, 1H), 4.59 (d, J=5.6 Hz, 2H), 3.96 (s, 3H), 2.55 (s, 3H); 1H NMR (CDCl3, 75 MHz) δ 164.9, 163.7, 161.9, 157.1, 151.3, 148.4, 141.5, 137.6, 128.8, 127.8, 127.8, 119.4, 113.8, 109.4, 54.0, 44.2, 16.7; MS (ES+) m/z 383.5 (M+1).

reactant | 2-methoxyisonicotinic acid | 1.01 mmol, 0.25 g | COC=1C=C(C(=O)O)C=CN1 | C7H7NO3
reactant | 4-methyl morpholine | 1.45 mmol, 0.15 g | CN1CCOCC1 | C5H11NO
reactant | isobutylchloroformate | 1.36 mmol, 0.19 g | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | 2-amino-N-benzyl-4-methylthiazole-5-carboxamide | NC=1SC(=C(N1)C)C(=O)NCC1=CC=CC=C1 | C12H13N3OS
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | N-Benzyl-2-(2-methoxyisonicotinamido)-4-methylthiazole-5-carboxamide | 83% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)NC(C1=CC(=NC=C1)OC)=O)C | C19H18N4O3S
